US04454158
(E)-1-Chloro-2-phenyl-3-phthalimidopropene (445 mg) is treated as described for the Z-isomer with hydrazine hydrate (85 mg) in methanol (6 ml). Hydrolysis with 50% aqueous hydrochloric acid gives (E)-2-phenyl-3-chloroallylamine hydrochloride (152 mg): colorless needles; m.p. 185°-186°;

reactant | (E)-1-Chloro-2-phenyl-3-phthalimidopropene | 445 mg | Cl\C=C(\CN1C(C=2C(C1=O)=CC=CC2)=O)/C2=CC=CC=C2 | C17H12ClNO2
reactant | hydrazine hydrate | 85 mg | O.NN
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 6 ml | CO | CH4O
product | (E)-2-phenyl-3-chloroallylamine hydrochloride | 152 mg | Cl.C1(=CC=CC=C1)/C(/CN)=C\Cl | InChI=1S/C9H10ClN.ClH/c10-6-9(7-11)8-4-2-1-3-5-8;/h1-6H,7,11H2;1H/b9-6-;
